Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ w/pmhx of CAD s/p PCI, hx of PE, afib on apixaban, OSA, HLD,
trigeminal neuralgia who presents with increasing dyspnea. 

He reports progressive dyspnea over the past 6 months but
particular worse in the past ___ weeks that he is unable to
sleep. He has noticed an associated 20 pound weight gain during
this period as well. He takes lasix 120mg BID, which he reports
being compliant with and has been on this dose for a long time.
He has 2 pillow orthopnea, which he reports is not any worse. He
denies any chest pain, fevers. Endorses nausea, occasional abd
pain, and worsening swelling of LEs. Does state his RLE is 
always
larger than LLE, but is more appreciably larger recently

 
Past Medical History:
 Hypertension  
 Trigeminal neuralgia  
 DJD  
 Atrial fibrillation/flutter ___  
 H/o pulmonary embolism ___ s/p 6 month course of Coumadin  
 Bilateral hip replacements ___  
 CAD s/p RCA stent ___ after abnormal stress test  
 S/p bilateral total knee replacements  
 OSA intermittently on cpap  
 H/o narcotic dependence  
 Pulmonary hypertension  
 Hyperlipidemia  

 
Social History:
___
Family History:
 His mother deceased at the age of ___. His father deceased at 
the age of ___ with a history of lung cancer. His sister deceased 
at the age of ___ with a history of lung cancer. There is no 
family history of trigeminal neuralgia.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS:  98.4 ___ 4L 
GENERAL: Obese adult male in NAD  
HEENT: NCAT, JVP above clavicle at 90 degrees 
CARDIAC: RRR without MRG, normal S1 and S2
LUNGS: Diffuse crackles throughout  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: WWP with 2+ edema to knees bilaterally

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 744)
    Temp: 97.9 (Tm 98.5), BP: 136/91 (97-136/55-91), HR: 80
(66-86), RR: 16 (___), O2 sat: 95% (81-97), O2 delivery: 2L
(1L-2L), Wt: 386.02 lb/175.1 kg  
Fluid Balance (last updated ___ @ 804) 
  Last 8 hours  Total cumulative -55ml
    IN: Total 420ml, PO Amt 420ml
    OUT:  Total 475ml, Urine Amt 475ml
  Last 24 hours  Total cumulative -635ml
    IN: Total 1140ml, PO Amt 1140ml
    OUT:  Total 1775ml, Urine Amt 1775ml  
GENERAL: Obese adult male in NAD  
HEENT: NCAT
CARDIAC: Distant heart sounds, RRR without MRG, normal S1 and S2
LUNGS: Decreased breath sounds, crackles in bases, distant  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: no peripheral edema 

 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:53AM BLOOD WBC-7.0 RBC-5.18 Hgb-16.3 Hct-50.0 MCV-97 
MCH-31.5 MCHC-32.6 RDW-12.7 RDWSD-45.4 Plt ___
___ 10:53AM BLOOD Neuts-69.6 Lymphs-16.0* Monos-10.0 
Eos-2.3 Baso-1.4* Im ___ AbsNeut-4.87 AbsLymp-1.12* 
AbsMono-0.70 AbsEos-0.16 AbsBaso-0.10*
___ 10:53AM BLOOD Glucose-90 UreaN-32* Creat-0.9 Na-141 
K-4.5 Cl-96 HCO3-33* AnGap-12
___ 07:25AM BLOOD ALT-18 AST-25 AlkPhos-62 TotBili-0.6
___ 10:53AM BLOOD CK-MB-4 proBNP-3752*
___ 10:53AM BLOOD cTropnT-<0.01
___ 05:44PM BLOOD CK-MB-3 cTropnT-<0.01
___ 10:53AM BLOOD Calcium-9.0 Phos-3.6 Mg-2.4
___ 07:25AM BLOOD %HbA1c-5.7 eAG-117
___ 07:25AM BLOOD Triglyc-88 HDL-48 CHOL/HD-3.6 LDLcalc-109
___ 07:25AM BLOOD TSH-3.7
___ 07:25AM BLOOD HCV Ab-POS*
___ 07:25AM BLOOD HCV VL-NOT DETECT
___ 10:59AM BLOOD Lactate-1.4

DISCHARGE LABS:
===============
___ 06:45AM BLOOD Glucose-101* UreaN-23* Creat-0.8 Na-142 
K-3.8 Cl-86* HCO3-43* AnGap-13
___ 06:45AM BLOOD Calcium-9.3 Phos-4.0 Mg-2.___ w/pmhx of CAD s/p PCI, hx of PE, afib on apixaban, OSA, HLD, 
trigeminal neuralgia who presents with increasing dyspnea. 

ACUTE ISSUES:
=============
#ACUTE ON CHRONIC DIASTOLIC HEART FAILURE 
He presented with CHF exacerbation with dyspnea while lying flat 
and evidence of fluid overload. Unclear trigger, did not have 
signs of ischemia, though he reports intermittently holding his 
diuretics. He was monitored on telemetry. His ins/outs were 
monitored and his weights were obtained daily. He was given IV 
furosemide and eventually a furosemide drip with good urinary 
output. He was transtioned to furosemide 80 mg PO BID prior to 
discharge. He continued afterload reduction with his home 
diltiazem. His sotolol was stopped and he was started on 
Metoprolol. 

#HYPOXEMIA 
Patient with O2 saturations <88% when ambulating. This is likely 
from heart failure exacerbation. He was discharged with 
supplemental O2. This should be titrated for O2 goal >88%. 

#CAD
EKG changes with T wave inversions, but low suspicion for 
coronary event. he was continued on aspirin and simvastatin. 

#CONSTIPATION 
He was given a bowel regimen. 

#HCV Ab positive
No known history of HCV. VL undetected. Likely prior infection. 

CHRONIC ISSUES:
===============
#ATRIAL FIBRILLATION 
#HTN
He continued his home Verapamil and apixaban. Sotolol was 
stopped and Metoprolol was started for rate control.

# Trigeminal neuralgia
He continued his home acetaminophen and amitriptyline. 

# Hematuria
Started following foley placement, suspect mild trauma. 

# OSA
He continued home CPAP.

TRANSITIONAL ISSUES:
====================
[] Weigh yourself daily. If you gain 3 or more pounds in one day 
or 5 pounds in one week, call your physician.
[] The patient has not had a sleep study in many years and he 
was scheduled with an outpatient follow-up with the ___ 
___. 
[] The patient is obese and would benefit from bariatric surgery 
outpatient evaluation as well as an evaluation by a dietician. 
[] Patient desatted to 88% on oxygen and was discharged on 
supplemental oxygen. 
[] The patient should have a chem-7 drawn prior to his 
appointment with Dr. ___ on ___. 

CODE: Full
CONTACT:
Name of health care proxy: ___ 
Relationship: wife 
Phone number: ___- 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Simvastatin 80 mg PO QPM 
3. Aspirin 81 mg PO DAILY 
4. Amitriptyline 25 mg PO QHS 
5. Verapamil SR 240 mg PO Q24H 
6. Sotalol 180 mg PO BID 
7. Apixaban 5 mg PO BID 
8. Furosemide 120 mg PO BID 
9. Potassium Chloride 40 mEq PO DAILY 

 
Discharge Medications:
1.  Metoprolol Succinate XL 150 mg PO DAILY 
RX *metoprolol succinate 50 mg 3 tablet(s) by mouth daily Disp 
#*270 Tablet Refills:*0 
2.  Furosemide 160 mg PO DAILY 
RX *furosemide 80 mg 2 tablet(s) by mouth daily Disp #*180 
Tablet Refills:*0 
3.  Acetaminophen 325-650 mg PO Q6H:PRN pain  
4.  Amitriptyline 25 mg PO QHS  
5.  Apixaban 5 mg PO BID  
6.  Aspirin 81 mg PO DAILY  
7.  Potassium Chloride 40 mEq PO DAILY  
8.  Simvastatin 80 mg PO QPM  
9.  Verapamil SR 240 mg PO Q24H  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute on chronic diastolic heart failure exacerbation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure being involved in your care. 

Why were you admitted to the hospital:
======================================
You were admitted to the hospital for shortness of breath and 
swelling in you legs from your heart failure. 

What happened in the hospital:
==============================
- You were given a medication, furosemide or Lasix, to help you 
urinate and remove extra fluid from your lungs and feet. 

What you should do after leaving the hospital:
==============================================
- Take all of your medications as described below. 
- Attend all of your follow-up appointments as described below. 
- Please limit the amount of fluid you drink daily, and please 
make sure you eat a low salt diet. 
- Weigh yourself daily. If you gain 3 or more pounds in one day 
or 5 pounds in one week, call your physician.
- Please use your oxygen at night with your CPAP machine to make 
sure that your oxygen levels are high enough. 
- Please come to ___ for a blood test at your convenience 
between ___ and ___. We have provided you with a lab slip. 

We wish you the best!
Your ___ Team 
 
Followup Instructions:
___